US06365747B1
4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline (one-pot method)
To a mixture of thionyl chloride (25 ml, 0.344 mol) and N,N-dimethylacetamide (0.2 ml), 5-carboxyphthalide (5 g, 0.028 mol) is added. The stirred mixture is heated 30 minutes at 60° C. and is then brought to reflux (about 80° C.) and kept under these conditions for 6 hours. The thionyl chloride is distilled off in vacuo to an inner temperature of about 90° C. The concentrated mixture is taken up with toluene (25 ml) and distilled in vacuo leaving a residue, which is taken up again twice with of toluene (10 ml) followed by concentration of the solution. The residual acid chloride is taken up with of tetrahydrofuran (25 ml) and the mixture is heated at 60° C. until a complete dissolution is obtained. The solution of the acid chloride in tetrahydrofuran is added dropwise to a mixture of micronized anhydrous potassium carbonate (5 g, 0.036 mol), 2-amino-2-methyl-1-propanol (3.06 ml, 0.032 mol) and of tetrahydrofuran (15 ml), cooled to about 0° C., keeping the temperature at 5-10° C. After about 30 minutes under these conditions, a control by HPLC is performed in order to verify the complete amide formation. The mixture is cooled to 0-3° C. and of thionyl chloride (2 ml, 0.027 mol) is added dropwise to the mixture. At the end of the addition, a control by HPLC confirms that the ring closure of the amide is completed. To the mixture, 50 ml of deionized water is slowly added at 5-10° C. The organic solvents are distilled off in vacuo and the pH is adjusted to 5 with 25% ammonia. The mixture is heated one hour at 50° C., then its temperature is let to decrease to about 20° C., kept at this value for 2 hours, then lowered to 10-15° C. and the mixture is maintained under these conditions for one hour. The mixture is dispersed by stirring, then it is filtered, washed with water and dried in vacuo at 40° C. Yield: 3.87 g of product. Total yield: 59.8%.

reactant | thionyl chloride | 0.344 mol, 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-carboxyphthalide | 0.028 mol, 5 g | C(=O)(O)C=1C=C2COC(=O)C2=CC1 | C9H6O4
reactant | potassium carbonate | 0.036 mol, 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-2-methyl-1-propanol | 0.032 mol, 3.06 ml | NC(CO)(C)C | C4H11NO
reactant | thionyl chloride | 0.027 mol, 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 0.2 ml | CN(C(C)=O)C | C4H9NO
product | 4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline | yield: 59.8% | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)=O)C | C13H13NO3
